US06699910B2
To a homogenous solution of KOH (85%, 7.17 g, 108.90 mmol) in water (15 mL) and ethanol (45 mL) was added 2,10-dimethyl-6-oxo-2,10-diphenyl-undecanedioic acid diethyl ester (14.5 g, 31.12 mmol). The reaction solution was heated to reflux for 6 h. The ethanol was removed in reduced pressure and the residue was diluted with water (300 mL). The solution was acidified with concd. HCl (18 mL) to pH 1 and extracted with CH2Cl2 (3×100 mL). The combined organic layers were washed with brine, dried over anhydrous Na2SO4 and purified by flash chromatography (silica gel, ethyl acetate/hexanes=1/20, 1/10, 1/2) to furnish 2,10-dimethyl-6-oxo-2,10-diphenyl-undecanedioic acid (4 g, 31.4%) as a white solid. Mp.: 44-46° C. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm) 10.25 (br, 2H), 7.35-7.22 (m, 10H), 2.32 (m, 4H), 1.94-1.86 (m, 4H), 1.57 (s, 6H), 1.51-1.22 (m, 4H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm) 210.64, 182.66, 142.69, 128.66, 127.18; 126.29, 50.07, 42.97, 38.62, 22.20, 19.11. HRMS (LSIMS, nba): Calcd. for C25H31O5 (MH+): 411.2171, found: 411.2144.

reactant | KOH | 108.90 mmol, 7.17 g | [OH-].[K+]
reactant | 2,10-dimethyl-6-oxo-2,10-diphenyl-undecanedioic acid diethyl ester | 31.12 mmol, 14.5 g | C(C)OC(C(CCCC(CCCC(C(=O)OCC)(C1=CC=CC=C1)C)=O)(C1=CC=CC=C1)C)=O | C29H38O5
solvent | water | 15 mL | O | H2O
solvent | ethanol | 45 mL | C(C)O | C2H6O
product | 2,10-dimethyl-6-oxo-2,10-diphenyl-undecanedioic acid | 4 g, 31.4% | CC(C(=O)O)(CCCC(CCCC(C(=O)O)(C1=CC=CC=C1)C)=O)C1=CC=CC=C1 | C25H30O5
